US04017564
Preparation of methallyl phosphonic acid diisopropyl ester
208 parts of triisopropyl phosphite, 1.5 parts of phenothiazine and 3.4 parts of Ni(CO)4 (corresponding to 2 mol %, based on the phosphite) are heated to 120°-130° C in a nitrogen atmosphere. 99 parts (corresponding to a 10% excess) of methallyl chloride are added dropwise over a period of 5 hours. 68 parts of isopropyl chloride (Bp: 35°-36° C) are distilled off through a column. The product is fractionated in vacuo through a column. Boiling point: 58°-63° C/0.25 Torr; Yield: 155 parts (70.5% of the theoretical): nD20 : 1.4312 Purity according to GC: 97.3%

reactant | triisopropyl phosphite | P(OC(C)C)(OC(C)C)OC(C)C | C9H21O3P
reactant | phenothiazine | C1=CC=CC=2SC3=CC=CC=C3NC12 | C12H9NS
reactant | phosphite | P([O-])([O-])[O-]
reactant | methallyl chloride | C(C(C)=C)Cl | C4H7Cl
product | methallyl phosphonic acid diisopropyl ester | C(C)(C)OP(OC(C)C)(=O)CC(C)=C | C10H21O3P
